* C:\Users\rochi\Google Drive\Materias\Teoría de circuitos\TPs\Filtro final\simulacion\filtro_final opamps reales.asc
R1 s3 N002 {mc{1k2, tolr}}
R2 0 N007 {mc{1k56, tolr}}
C1 N002 s2 {mc{11n, tolc}}
C2 N007 N002 10n
R3 N008 0 {mc{1k, tolr}}
R4 s3 N008 {mc{1k06, tolr}}
R5 s2 N003 {mc{2k15, tolr}}
R6 0 N005 {mc{24k3, tolr}}
C3 N005 N003 {mc{10n, tolc}}
C4 N003 s1 {mc{10n, tolc}}
R9 N001 in {mc{4k5, tolr}}
R11 N006 0 {mc{1k, preset}}
R12 s1 N006 {mc{1k61, preset}}
C5 0 N001 {mc{10n, tolc}}
C6 N001 N004 {mc{10n, tolc}}
R7 s1 N001 {mc{4k5, tolr}}
R8 0 N004 {mc{4k5, tolr}}
V1 in 0 SINE(0 1 1000) AC 1 Rser=50
R13 N011 N009 {mc{54k9, tolr}}
R14 N012 N011 {mc{9k79, preset}}
R15 N009 s3 {mc{3k81, tolr}}
R16 s4 N009 {mc{9k79, tolr}}
R17 N014 N013 {mc{10k, tolr}}
C7 N013 N012 {mc{10n, preset}}
C9 N011 N009 {mc{10n, tolc}}
R18 s4 N014 {mc{10k, tolr}}
R10 N015 N010 {mc{58k1, tolr}}
R19 N016 N015 {mc{10k35, tolr}}
R20 N010 s4 {mc{4k, tolr}}
R21 out N010 {mc{10k35, tolr}}
R22 N018 N017 {mc{10k, tolr}}
C8 N017 N016 {mc{1n, tolc}}
C10 N015 N010 {mc{1n, tolc}}
R23 out N018 {mc{10k, tolr}}
XU3 N004 N006 vcc vee s1 TL082
XU2 N005 s2 vcc vee s2 TL082
XU1 N007 N008 vcc vee s3 TL082
XU4 0 N009 vcc vee N011 TL082
XU5 0 N012 vcc vee N013 TL082
XU6 0 N014 vcc vee s4 TL082
XU7 0 N018 vcc vee out TL082
XU8 0 N016 vcc vee N017 TL082
XU9 0 N010 vcc vee N015 TL082
V2 vcc 0 15
V3 0 vee 15
.ac dec 1000 1k 20k
.lib opamp.sub
.step param run 1 50 1
.param tolr = 0.01
.param tolc = 0.05
.param preset=0.0
.lib TL082.LIB
.backanno
.end
